US05114960
A solution of 3.12 g (0.02 mol) of 3-oxocyclohexanecarboxylate, 1.91 g (0.022 mol) of morpholine and 0.01 g of p-toluenesulfonic acid in 300 ml of toluene was heated under reflux for 6 hours in a Dean-Stark apparatus. The solution was cooled to 0° C. and there were added 2.02 g (0.02 mol) of triethylamine in 5 ml of toluene followed by 3.83 g (0.02 mol) of p-chlorobenzoyl chloride in 30 ml of toluene over a period of 0.5 hour. The mixture was stirred at 20° C. for 3 hours and then heated at 60° C. for 3 hours. The solution was cooled and filtered. The filtrate was evaporated to give ethyl 2-(4-chlorobenzoyl)-1-morpholino-4-cyclohexenecarboxylate as a gum which was dissolved in 10 ml of ethanol and 5 ml of pyridine and treated with 1.4 g (0.02 mol) of hydroxylamine hydrochloride. The mixture was then heated under reflux for 2 hours. The solvents were removed by evaporation, 2N hydrochloric acid was added to the residue and the product was extracted with diethyl ether. Evaporation of the ethereal extract gave 1 g of methyl 3-(4-chlorophenyl)-4,5,6,7-tetrahydro-2,1-benzisoxazole-6-carboxylate of melting point 141°-143° C. (from ethyl acetate/hexane).

reactant | 3-oxocyclohexanecarboxylate | 0.02 mol, 3.12 g | O=C1CC(CCC1)C(=O)[O-]
reactant | morpholine | 0.022 mol, 1.91 g | N1CCOCC1 | C4H9NO
reactant | p-toluenesulfonic acid | 0.01 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triethylamine | 0.02 mol, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzoyl chloride | 0.02 mol, 3.83 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(4-chlorobenzoyl)-1-morpholino-4-cyclohexenecarboxylate | ClC1=CC=C(C(=O)C2C(CC=CC2)(C(=O)OCC)N2CCOCC2)C=C1 | C20H24ClNO4
